US07410986B2
To a solution of 5-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-2-(ethylamino)phenol (0.013 g, 0.023 mmol) in 1,4-dioxane (0.5 mL) was added a solution of HCl in 1,4-dioxane (4N, 1.0 mL). After being stirred overnight, the mixture was diluted with diethyl ether. The resulting precipitate was collected by filtration under argon atmosphere, washed with Et2O, and dried under reduced pressure to give 2-[6-amino-4-[4-(ethylamino)-3-hydroxyphenyl]-5-(hydroxymethyl)-2-pyridinyl]-3-(cycloproylmethoxy)phenol. (0.008 g, 76%); LC-MS (m/z=422 M+1)

reactant | 5-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-2-(ethylamino)phenol | 0.023 mmol, 0.013 g | NC1=NC(=CC(=C1CO)C=1C=CC(=C(C1)O)NCC)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C32H35N3O5
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4N, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[6-amino-4-[4-(ethylamino)-3-hydroxyphenyl]-5-(hydroxymethyl)-2-pyridinyl]-3-(cycloproylmethoxy)phenol | NC1=C(C(=CC(=N1)C1=C(C=CC=C1OCC1CC1)O)C1=CC(=C(C=C1)NCC)O)CO | C24H27N3O4
